US07179836B2
Crude 2-amino-4-(4-amino-phenyl)-thiophene-3-carboxylic acid amide (0.15 mmoles, 1 eq) is dissolved in 1 mL DMF and added to a solution of 2-fluoro-5-trifluoromethylbenzoic acid (0.20 mmoles, 1.3 equiv) and HBTU (0.20 mmoles, 1.3 equiv) in 1 mL DMF. To this solution is added 0.5 mL triethylamine. The solution is stirred at room temperature until the reaction is complete, as judged by TLC. The crude reaction mixture is purified by preparative HPLC, affording the desired 2-amino-4-{4-[(1-[2-fluoro-5-trifluoromethyl-phenyl]-methanoyl)-amino]-phenyl}-thiophene-3-carboxylic acid amide. Biological Data

reactant | 2-amino-4-(4-amino-phenyl)-thiophene-3-carboxylic acid amide | 0.15 mmoles, 1 eq | NC=1SC=C(C1C(=O)N)C1=CC=C(C=C1)N | C11H11N3OS
reactant | 2-fluoro-5-trifluoromethylbenzoic acid | 0.20 mmoles, 1.3 equiv | FC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C8H4F4O2
reactant | HBTU | 0.20 mmoles, 1.3 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-amino-4-{4-[(1-[2-fluoro-5-trifluoromethyl-phenyl]-methanoyl)-amino]-phenyl}-thiophene-3-carboxylic acid amide | NC=1SC=C(C1C(=O)N)C1=CC=C(C=C1)NC(=O)C1=C(C=CC(=C1)C(F)(F)F)F | C19H13F4N3O2S
